US09034907B2
3-(1H-benzo[d]imidazol-5-yl)-2,3-dihydro-7-methyl-2-thioxothieno[3,2-d]-pyrimidin-4(1H)-one
1H-benzo[d]imidazol-5-amine (0.13 g, 0.98 mmol) and methyl 3-isothiocyanato-4-methylthiophene-2-carboxylate (0.21 g, 0.98 mmol) were dissolved in 10 mL of THF. The mixture was stirred by heating under reflux over night. The solvent was removed and the product was purified by means of semi-preparative HPLC.

reactant | 1H-benzo[d]imidazol-5-amine | 0.98 mmol, 0.13 g | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | methyl 3-isothiocyanato-4-methylthiophene-2-carboxylate | 0.98 mmol, 0.21 g | N(=C=S)C1=C(SC=C1C)C(=O)OC | C8H7NO2S2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(1H-benzo[d]imidazol-5-yl)-2,3-dihydro-7-methyl-2-thioxothieno[3,2-d]-pyrimidin-4(1H)-one | N1C=NC2=C1C=CC(=C2)N2C(NC1=C(C2=O)SC=C1C)=S | C14H10N4OS2
